US09226916B2
a) (4-Chloro-phenyl)-propynoic acid ethyl ester
A mixture of 1-chloro-4-iodobenzene (120.4 g, 0.50 mol) and cesium carbonate (352.8 g, 1.0 mol) in tetrahydrofuran (1.275 L) was evaporated and flushed with argon. Then cuprous iodide (3.81 g, 20.0 mmol) and bis(triphenylphosphine)palladium(II) chloride (7.02 g, 10.0 mmol) were added and then ethyl propiolate (100 g, 1.01 mol) was added dropwise over a period of 20 min. The resulting dark brown suspension was stirred for 41 h at 35° C., then filtrated over Hyflo® and washed with THF (5 L). The solution was concentrated and treated with toluene/heptane 1:2 (1.5 L) and stirred for 1 h at 45° C. under reduced pressure (250 mbar). The resulting suspension was filtered and the residue was washed with further toluene/heptane 1:2 (1.5 L). The solid was dried affording 181.64 g (MS m/e: 209.0/211.2 [M+H]+) of a dark brown oil as crude product which was used without further purification.

reactant | 1-chloro-4-iodobenzene | 0.50 mol, 120.4 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | cesium carbonate | 1.0 mol, 352.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl propiolate | 1.01 mol, 100 g | C(C#C)(=O)OCC | C5H6O2
solvent | tetrahydrofuran | 1.275 L | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 10.0 mmol, 7.02 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-Chloro-phenyl)-propynoic acid ethyl ester | C(C)OC(C#CC1=CC=C(C=C1)Cl)=O | C11H9ClO2
